US08349851B2
A mixture of methyl 2-(difluoro(4-fluorophenyl)methyl)-4-hydroxyquinazoline-7-carboxylate (1.1 g, 3.2 mmol) and phosphorus oxychloride (15 mL) was heated at reflux overnight. The mixture was concentrated under reduced pressure, and then toluene (20 mL) was added and evaporated under reduced pressure (2×). The residue in DCM was filtered through a pad of silica gel eluting with DCM. The filtrate was concentrated under reduced pressure to afford methyl 4-chloro-2-(difluoro(4-fluorophenyl)methyl)quinazoline-7-carboxylate (1 g, 86%). 1H NMR (300 MHz, DMSO-d6) δ 3.98 (s, 3H), 7.37 (t, 2H), 7.75 (t, 2H), 8.39 (d, 1H), 8.49 (s, 1H), 8.64 (d, 1H).

reactant | methyl 2-(difluoro(4-fluorophenyl)methyl)-4-hydroxyquinazoline-7-carboxylate | 3.2 mmol, 1.1 g | FC(C1=NC2=CC(=CC=C2C(=N1)O)C(=O)OC)(C1=CC=C(C=C1)F)F | C17H11F3N2O3
reactant | phosphorus oxychloride | 15 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | methyl 4-chloro-2-(difluoro(4-fluorophenyl)methyl)quinazoline-7-carboxylate | 1 g, 86% | ClC1=NC(=NC2=CC(=CC=C12)C(=O)OC)C(C1=CC=C(C=C1)F)(F)F | C17H10ClF3N2O2
